US08114891B2
1-Azabicyclo[2.2.1]heptan-4-ylmethanol was prepared by reducing ethyl 1-azabicyclo[2.2.1]heptane-4-carboxylate with lithium aluminum hydride, as described in J. Med. Chem. 35, 2392 (1992).

reactant | ethyl 1-azabicyclo[2.2.1]heptane-4-carboxylate | N12CCC(CC1)(C2)C(=O)OCC | C9H15NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-Azabicyclo[2.2.1]heptan-4-ylmethanol | N12CCC(CC1)(C2)CO | C7H13NO
